US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1,4-dimethyl-1H-pyrazole-3-carboxamide
In the same manner as in Example 18-4 and using 1,4-dimethyl-1H-pyrazole-3-carboxylic acid (127 mg, 0.904 mmol), tetrahydrofuran (8 mL), oxalyl chloride (86.7 μL, 0.994 mmol), N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (60.0 mg, 0.194 mmol), N,N-dimethylformamide (1 drop) and N,N-dimethylacetamide (3 mL) as starting materials, the title compound (57.7 mg, 69%) was obtained as a white solid.

reactant | 1,4-dimethyl-1H-pyrazole-3-carboxylic acid | 0.904 mmol, 127 mg | CN1N=C(C(=C1)C)C(=O)O | C6H8N2O2
reactant | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 0.994 mmol, 86.7 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.194 mmol, 60.0 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1,4-dimethyl-1H-pyrazole-3-carboxamide | 57.7 mg, 69% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=NN(C=C2C)C)=N1 | C22H21N7O3
